US09340538B2
Step C: 4-((6-(2,4-difluorophenyl)-5-(ethoxycarbonyl)-2-(1,3,4-thiadiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2,4-difluorophenyl)-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.66 g, 1.5 mmol) was reacted with morpholine-3-carboxylic acid (0.2 g, 1.5 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.3 g, 41%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-difluorophenyl)-2-(1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.5 mmol, 0.66 g | BrCC1=C(C(N=C(N1)C=1SC=NN1)C1=C(C=C(C=C1)F)F)C(=O)OCC | C16H13BrF2N4O2S
reactant | morpholine-3-carboxylic acid | 1.5 mmol, 0.2 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((6-(2,4-difluorophenyl)-5-(ethoxycarbonyl)-2-(1,3,4-thiadiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.3 g, 41% | FC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=NN1)CN1C(COCC1)C(=O)O)C(=O)OCC | C21H21F2N5O5S
